US09260440B2
Step 1: Methyl 2-methyl-4-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-5-carboxylate
Methyl 4-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-5-carboxylate (0.04 g, 0.016 mmol) and NaCNBH3 (2.4 mg, 0.04 mmol) were added to a round bottomed flask, which were then dissolved in MeOH (2 mL), and treated with 0.5 mL of a 27% solution of formaldehyde in water. This mixture was stirred for 2 h, after which, 2N HCl (2 mL) was added, followed by stirring for 15 min. The mixture was taken to pH=11 by addition of concentrated, aqueous NaOH and extracted with methylene chloride (3×10 mL). The combined organic layers were washed with brine, dried (Na2SO4), and concentrated. The crude product was used in the next step without further purification.

reactant | Methyl 4-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-5-carboxylate | 0.016 mmol, 0.04 g | O=C1CNCC=2NC=3C=CC=C(C3C21)C(=O)OC | C13H12N2O3
reactant | NaCNBH3 | 0.04 mmol, 2.4 mg | [BH3-]C#N.[Na+]
reactant | formaldehyde | C=O | CH2O
reactant | HCl | 2N, 2 mL | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | O | H2O
product | Methyl 2-methyl-4-oxo-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-5-carboxylate | CN1CC=2NC=3C=CC=C(C3C2C(C1)=O)C(=O)OC | C14H14N2O3
